US07091245B2
[4-(3,3-Bis-[1,1′;4′,1″]terphenyl-4-yl-allylsulfanyl)-2-methyl-phenoxy]-acetic acid
In an evaporated schlenk flask kept under nitrogen atmosphere were added {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid (225 mg, 0.41 mmol, example 1, step A–B, biphenylboronic acid (163 mg, 0.8 mmol), KF (79 mg, 1.35 mmol), Pd2(dba)3 (23 mg, 25 mmol) and Pd(P(t-Bu)3)2 (26 mg, 51 mmol). THF (6 ml) was added to the solid mixture keeping the mixture under nitrogen. The reaction mixture was stirred at 50° C. for 2 h, followed by 10 h at 70° C. A saturated solution of ammonium chloride (5 ml) was added, and the mixture was extracted with dichloromethane (2×20 ml). The organic phases were dried and evaporated. The residue was purified by HPLC to give the title compound in 55 mg (19%) yield.

reactant | {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | BrC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)Br | C24H20Br2O3S
reactant | biphenylboronic acid | 0.8 mmol, 163 mg | B(C=1C=CC(=CC1)C=2C=CC=CC2)(O)O | C12H11BO2
reactant | KF | 1.35 mmol, 79 mg | [F-].[K+]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
catalyst | Pd2(dba)3 | 25 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd(P(t-Bu)3)2 | 51 mmol, 26 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | [4-(3,3-Bis-[1,1′;4′,1″]terphenyl-4-yl-allylsulfanyl)-2-methyl-phenoxy]-acetic acid | C1(=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C48H38O3S
